US03969370
Using the procedure described in Example 2 using 3 gm of 2,4-furandione and 4 g of 1-methylcyclopentylurea there is obtained 3 g of 1-(1-methylcyclopentyl)-3-(2,5-dihydro-5-oxo-3-furyl)urea, m.p. 170°C. (decomposition).

reactant | 2,4-furandione | 3 gm | O1C(CC(C1)=O)=O | C4H4O3
reactant | 1-methylcyclopentylurea | 4 g | CC1(CCCC1)NC(=O)N | C7H14N2O
product | 1-(1-methylcyclopentyl)-3-(2,5-dihydro-5-oxo-3-furyl)urea | 3 g | CC1(CCCC1)NC(=O)NC=1COC(C1)=O | C11H16N2O3
